* C:\Input.asc
V2 N002 0 AC 2
C2 N002 Vout 0.5p
R3 Vout 0 1G
V3 N001 0 9 AC 0
R5 N001 Vout {r}
.param r=table(n, 1,10k,2,100k,3,1MEG,4,10MEG)
.step param n 1 4 1
.ac dec 200 10k 1G
.backanno
.end
